US04544659
2.09 g of 9-methoxyacridine are dissolved in 50 ml of dry ethanol, treated with a solution of 1.98 g of 2-hydrazino-2-thiazoline hydrobromide in 50 ml of dry ethanol, heated to boiling under reflux for 1 hour and the solvent is removed in vacuo. The residue is treated with aqueous ammonia (1:5) and extracted with ethyl acetate. After drying the extract over sodium sulfate and evaporation, the material obtained is crystallized by the addition of pentane. There is obtained 9-acridanone (2-thiazolidinylidene)hydrazone of melting point 214°-215° (decomposition).

reactant | 9-methoxyacridine | 2.09 g | COC=1C2=CC=CC=C2N=C2C=CC=CC12 | C14H11NO
reactant | 2-hydrazino-2-thiazoline hydrobromide | 1.98 g | Br.N(N)C=1SCCN1
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 9-acridanone (2-thiazolidinylidene)hydrazone | S1C(NCC1)=NN=C1C2=CC=CC=C2NC=2C=CC=CC12 | C16H14N4S
